US09079866B2
5-{2′-[(4-Acetylpiperazin-1-yl)carbonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid for and 1-(piperazin-1-yl)ethanone. MS (ESI): mass calcd. for C23H22FN5O2, 419.18; m/z found, 420.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.65-8.56 (m, 1H), 8.11 (d, J=1.5, 1H), 8.02 (dd, J=10.4, 5.8, 1H), 7.55-7.41 (m, 4H), 7.42-7.32 (m, 1H), 7.34-7.28 (m, 1H), 4.71 (s, 2H), 3.65 (s, 2H), 3.51-2.93 (m, 4H), 2.79 (s, 2H), 1.99 (d, 3H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | 1-(piperazin-1-yl)ethanone | N1(CCNCC1)C(C)=O | C6H12N2O
product | 5-{2′-[(4-Acetylpiperazin-1-yl)carbonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | C(C)(=O)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C23H22FN5O2
